US05795900
To a stirred solution in THF (50 mL) at ambient temperature of 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid methyl ester (1.33 g, 2.28 mmole), prepared as in Example 26, step 2, was added LiAlH4 (0.09 g, 2.5 mmol) in a single portion. The mixture was stirred 3 hours at ambient temperature. Water (0.1 mL) was added followed by aqueous 1N NaOH (0.1 ml) and water (0.5 mL). The mixture was then concentrated to dryness and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. Purification by chromatography on silica gel (60% ethylacetate/hexanes) gave 1.01 g (80%) of 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)-propan-1-ol as a yellow foam.

reactant | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propionic acid methyl ester | 2.28 mmole, 1.33 g | COC(C(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)(C)C)=O | C38H34N2O4
reactant | LiAlH4 | 2.5 mmol, 0.09 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 0.1 mL | O | H2O
reactant | NaOH | 1N, 0.1 ml | [OH-].[Na+]
reactant | water | 0.5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)-propan-1-ol | 1.01 g, 80% | CC(CO)(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | C37H34N2O3
